Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C@:6]([O:5])([H:7])[C:8]([H:9])([H:10])[H:11],0.1402609384799999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:12][H:13],6.48707620147
[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1][C:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[H:8],-0.3192486800199999
[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-4.10132346334
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.69213481175
[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-2.11337311225
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.9362394584699993
[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.53363191069
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:4]([H:3])[H:8].[O:5]=[C:6][H:7],0.8897305504299999
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.800171238530001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.70140936028
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11],1.27141664475
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.92724597844
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12],-1.9656951049
[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-6.8342492990100006
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.85599801689
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.84011003974
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],5.39512466934
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.71902623362
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.56703335519
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.90958058255
[H:1][C:2]([H:3])=[C:11]=[C:10]([H:6])[C:7]([C:5]#[C:4][H:12])([H:8])[H:9]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]1[H:12],1.17461155879
[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7],2.3088720591900005
[C:1].[O:2][C:3][C:4]>>[C:1][O:2][C:3]#[C:4],-3.29338827195
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-6.12406040665
[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1].[O:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],1.97662411438
[H:1][C:2]1([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])([C:4])[C:10]([C:7]([C:6]=[O:5])([H:8])[H:9])([H:11])[H:12],0.4422546563100001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6],2.7904300824799995
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],3.15303903033
[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])=[C:9][H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],-2.4690455896900003
